US04379921
Synthesis of 2-bromo-1-(4-chlorophenyl)-4,4-dimethyl-1-phenylsulfonylpentan-3-one
1-(4-Chlorophenyl)-4,4-dimethyl-1-phenylsulfonylpentan-3-one (5.0 g) was dissolved in a mixture of 100 ml of chloroform and 100 ml of acetic acid. To this solution, 2.2 g of bromine was added dropwise at 50° C. The mixture was kept at 50° C. for 3 hours and then washed with ice-water and an aqueous solution of sodium bicarbonate. The chloroform layer was evaporated and the solid residue was crystallized in a mixture of carbon tetrachloride and n-hexane. The crystals were collected by filtration and dried to give 5.8 g of the captioned compound. m.p. 167°-168° C.

reactant | 1-(4-Chlorophenyl)-4,4-dimethyl-1-phenylsulfonylpentan-3-one | 5.0 g | ClC1=CC=C(C=C1)C(CC(C(C)(C)C)=O)S(=O)(=O)C1=CC=CC=C1 | C19H21ClO3S
reactant | bromine | 2.2 g | BrBr | Br2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2-bromo-1-(4-chlorophenyl)-4,4-dimethyl-1-phenylsulfonylpentan-3-one | 5.8 g | BrC(C(S(=O)(=O)C1=CC=CC=C1)C1=CC=C(C=C1)Cl)C(C(C)(C)C)=O | C19H20BrClO3S
